US03957787
To a cooled solution of 730.0 g of o-bromophenylacetonitrile in 2.9 l of absolute ethanol is added, dropwise, while stirring, 740 ml of concentrated sulphuric acid. The addition requires about two hours. The reaction mixture is heated under reflux for nine hours, poured into ice water, and extracted with 2.5 l of ether. The ether extracts are washed, dried, and concentrated. The residue is distilled to give 780.0 g of ethyl o-bromophenylacetate, bp. about 115°-117° (4mm), nD26 1,5434.

reactant | o-bromophenylacetonitrile | 730.0 g | BrC1=C(C=CC=C1)CC#N | C8H6BrN
reactant | sulphuric acid | 740 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 2.9 l | C(C)O | C2H6O
product | ethyl o-bromophenylacetate | 780.0 g | BrC1=C(C=CC=C1)CC(=O)OCC | C10H11BrO2
